US05679696
A solution of N-(3,5-dichloropyrid-4-yl)-3-benzoyloxy-4-methoxybenzamide (13.4 g; that is prepared as described in Reference Example 11) in methanol (160 mL) and water (60 mL) is treated with anhydrous potassium carbonate (18 g), and stirred overnight at room temperature. It is then brought to pH 7 by treatment with dilute hydrochloric acid (2N), and concentrated. The residue is treated with water (100 mL) and filtered, and the resulting solid is dried, to give N-(3,5-dichloropyrid-4-yl)-3-hydroxy-4-methoxybenzamide (8.8 g), m.p. 227°-228° C.

reactant | N-(3,5-dichloropyrid-4-yl)-3-benzoyloxy-4-methoxybenzamide | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)OC)OC(C1=CC=CC=C1)=O)=O)Cl | C20H14Cl2N2O4
reactant | water | 60 mL | O | H2O
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
product | N-(3,5-dichloropyrid-4-yl)-3-hydroxy-4-methoxybenzamide | 8.8 g | ClC=1C=NC=C(C1NC(C1=CC(=C(C=C1)OC)O)=O)Cl | C13H10Cl2N2O3
